US08580968B2
(R)-2-(3-(piperidin-1-yl)pyrrolidin-1-yl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]thiazole
A mixture of (R)-6-bromo-2-(3-(piperidin-1-yl)pyrrolidin-1-yl)benzo[d]thiazole (the product of Example 14, 123 mg, 0.336 mmol), bis(pinacolato)diboron (119 mg, 0.470 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (27.4 mg, 0.034 mmol) and anhydrous potassium acetate (KOAc, 66 mg, 0.67 mmol) in tetrahydrofuran (1 mL) was heated to 70° C. over night in a vial. The mixture was cooled and partitioned between 1 M NaOH (5 mL) and CH2Cl2 (25 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (25 mL). The combined CH2Cl2 layers were dried (MgSO4), filtered, concentrated and chromatographed on silica gel eluting with a gradient of 2 to 10% (9:1 methanol:ammonium hydroxide) in CH2Cl2 to provide the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 1.35 (s, 12H) 1.42-1.52 (m, 2H) 1.57-1.68 (m, 4H) 1.96-2.08 (m, 1H) 2.23-2.34 (m, 1H) 2.39-2.57 (m, 4H) 2.93-3.07 (m, 1H) 3.43 (t, 1H) 3.55 (dt, J=10.3, 7.0 Hz, 1H) 3.76 (t, J=9.3 Hz, 1H) 3.82-3.91 (m, 1H) 7.55 (d, J=8.1 Hz, 1H) 7.73 (dd, J=8.0, 1.2 Hz, 1H) 8.06 (t, J=0.7 Hz, 1H); MS (DCI/NH3) m/z 414 (M+H)+.

reactant | (R)-6-bromo-2-(3-(piperidin-1-yl)pyrrolidin-1-yl)benzo[d]thiazole | BrC1=CC2=C(N=C(S2)N2C[C@@H](CC2)N2CCCCC2)C=C1 | C16H20BrN3S
reactant | bis(pinacolato)diboron | 0.470 mmol, 119 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.67 mmol, 66 mg | C(C)(=O)[O-].[K+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (R)-2-(3-(piperidin-1-yl)pyrrolidin-1-yl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]thiazole | N1(CCCCC1)[C@H]1CN(CC1)C=1SC2=C(N1)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C22H32BN3O2S
